US06441184B1
A solution of 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid (50 mg, 0.17 mmol), benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (83 mg, 0.19 mmol), triethylamine (0.048 mL, 0.34 mmol), and 2-amino-4,5,6,7-tetrahydrobenzothiazole (40 mg, 0.26 mmol) in dry N,N-dimethylformamide (1 mL) was stirred at 25° C. for 14 h. The reaction mixture was then diluted with water and ethyl acetate, and the layers were separated. The organic layer was sequentially washed with a 1N aqueous hydrochloric acid solution, a saturated aqueous sodium chloride solution, and water. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-(4,5,6,7-tetrahydro-benzothiazol-2-yl)-propionamide (56 mg, 79%) as a white solid: mp 170-171° C.; EI-HRMS m/e calcd for C21H24Cl2N2OS (M+) 422.0986, found 422.0982.

reactant | 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid | 0.17 mmol, 50 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.19 mmol, 83 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.34 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4,5,6,7-tetrahydrobenzothiazole | 0.26 mmol, 40 mg | NC=1SC2=C(N1)CCCC2 | C7H10N2S
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-(4,5,6,7-tetrahydro-benzothiazol-2-yl)-propionamide | 56 mg, 79% | C1(CCCC1)CC(C(=O)NC=1SC2=C(N1)CCCC2)C2=CC(=C(C=C2)Cl)Cl | C21H24Cl2N2OS
